US06399641B1
(5-Diphenylacetylamino-tetrazol-2-yl)-acetic acid methyl ester
The title compound, white solid, m.p. 168-169° and MS: (neg. ions): m/e=350.2 (M+−H) was prepared in accordance with the general method of example 1 from (5-amino-tetrazol-2-yl)-acetic acid methyl ester and diphenylacetyl chloride.

reactant | (5-amino-tetrazol-2-yl)-acetic acid methyl ester | COC(CN1N=C(N=N1)N)=O | C4H7N5O2
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | (5-Diphenylacetylamino-tetrazol-2-yl)-acetic acid methyl ester | COC(CN1N=C(N=N1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C18H17N5O3
